US04620870
N-(Butylaminocarbonyl)-2-methyl-2,3-dihydro-1,2-benzisothiazole-7-sulfonamide-1,1-dioxide
A suspension of 13.0 g of 2-methyl-2,3-dihydro-1,2-benzisothiazole-7-sulfonamide-1,1-dioxide, 11.2 ml of butyl isocyanate and 13.8 g of potassium carbonate in 200 ml of dry methyl ethyl ketone was heated at reflux for 2 hours. 13.8 g of potassium carbonate was added and heating was continued for an additional 16 hours. The mixture was cooled, the solvent was decanted from the solids, concentrated in vacuo, the residue dissolved in ethyl acetate and washed with saturated aq. NaHCO3. The aqueous wash was added to the original solids diluted with water and acidified to pH ~3 with dilute HCl. The mixture was extracted with methylene chloride, the extract was washed with water and brine, dried and concentrated in vacuo leaving a solid which was slurried in ether and filtered to give 13.24 g of the title compound as a white powder, m.p. 162°-164° C.

reactant | 2-methyl-2,3-dihydro-1,2-benzisothiazole-7-sulfonamide-1,1-dioxide | 13.0 g | CN1S(C2=C(C1)C=CC=C2S(=O)(=O)N)(=O)=O | C8H10N2O4S2
reactant | butyl isocyanate | 11.2 ml | C(CCC)N=C=O | C5H9NO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-(Butylaminocarbonyl)-2-methyl-2,3-dihydro-1,2-benzisothiazole-7-sulfonamide-1,1-dioxide | 13.24 g | C(CCC)NC(=O)NS(=O)(=O)C1=CC=CC=2CN(S(C21)(=O)=O)C | C13H19N3O5S2
